US06046201
N-(12-Nitroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide
To a solution of 5.7 g of 12-aminododecyl nitrate hydrochloride in 80 ml of methylene chloride were added successively under ice-cooling 5.21 g of sodium 6-(4-ethylpiperazinyl)pyridine-3-carboxylate, 3.91 g of 1-hydroxybenzotriazole (HOBt) and 2.76 g of 1-ethyl-3-(3-dimethylaminopropyl )carbodiimide hydrochloride (WSCI) and then the mixture was stirred at room temperature overnight. The reaction solution was diluted with chloroform and washed successively with water, a saturated aqueous solution of sodium hydrogen carbonate and a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and then distilled under reduced pressure. The residue thus obtained was chromatographed over a silica gel column to afford 8.56 g of the title compound as a crystal.

reactant | 12-aminododecyl nitrate hydrochloride | 5.7 g | Cl.[N+](=O)(OCCCCCCCCCCCCN)[O-]
reactant | sodium 6-(4-ethylpiperazinyl)pyridine-3-carboxylate | 5.21 g | C(C)N1CCN(CC1)C1=CC=C(C=N1)C(=O)[O-].[Na+]
reactant | 1-hydroxybenzotriazole | 3.91 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl )carbodiimide hydrochloride | 2.76 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(12-Nitroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 8.56 g | O([N+](=O)[O-])CCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C24H41N5O4
